US08217066B2
Step 1: 1-{4′-[3-Methyl-4-(4-phenyl-butyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid:
1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid (0.030 g, 0.07 mmol) was dissolved in EtOAc and MeOH. 10% Palladium on carbon (spatula tip) was added, and the reaction was stirred under a balloon of H2 overnight. The mixture was filtered and concentrated to give the title compound.

reactant | 1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | 0.07 mmol, 0.030 g | CC1=NOC(=C1C=CCCC1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H27NO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | Palladium on carbon | [Pd] | Pd
product | 1-{4′-[3-Methyl-4-(4-phenyl-butyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | CC1=NOC(=C1CCCCC1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H29NO3
